US07662979B2
(7-nitro-2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanol:
4-Nitrocatechol (30 g, 0.19 mol), lithium carbonate (36 g, 0.49 mol), and epichlorohydrin (38 mL, 0.49 mol) in DMF (180 mL) were heated to 70-85° C. for 47 hours. Water was added and the mixture extracted with EtOAc (3×). Concentration of the combined EtOAc extracts and crystallization from MeOH gave the title compound, first crop, 5.98 g, 14.7% yield, mp 131.8-135° C. and second crop, 1.64 g, 4% yield, mp 133.1-136.7° C., (lit. mp 131-134° C.). 1H NMR (d6-DMSO) δ 7.78 (1H, dd, J=8.9, 2.7 Hz); 7.72 (1H, d, J=2.7 Hz); 7.11 (1H, d, J=8.9 Hz); 5.16 (1H, br s); 4.48 (1H, dd, J=11.4, 2.1 Hz); 4.32-4.23 (1H, m); 4.17 (1H, dd, J=11.4, 7.4 Hz); 3.66 (2H, br s).

reactant | 4-Nitrocatechol | 0.19 mol, 30 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | lithium carbonate | 0.49 mol, 36 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | epichlorohydrin | 0.49 mol, 38 mL | C(Cl)C1CO1 | C3H5ClO
reactant | Water | O | H2O
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
product | (7-nitro-2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanol | 14.7% yield | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)CO)C1 | C9H9NO5
